US05932571
Synthesis of 4-(1-pentyl-1H-benzimidazol-2-yl)[1,4]diazepane hydriodic acid salt
Combine 1-t-butoxycarbonyl-4-(1H-benzimidazol-2-yl)[1,4]diazepane (0.8 g, 2.5 mmol) in dimethylformamide (10 mL). Add sodium hydride (0.13 g, 60% in oil, 3.25 mmol) portionwise. After about 30 minutes, when the gas evolution ceases, add pentyl bromide (0.34 mL, 2.74 mmol). Heat to 80° C. After 18 hours, cool the reaction mixture and dilute with dichloromethane (150 mL) and extract with brine. Dry the organic layer over MgSO4, filter, and evaporate in vacuo to give 1-t-butoxycarbonyl-4-(1-pentyl-1H-benzimidazol-2-yl)[1,4]diazepane: Rf =0.87 (silica gel, 5% methanol/dichloromethane/0.05% concentrated aqueous ammonia). Combine 1-t-butoxycarbonyl-4-(1-pentyl-1H-benzimidazol-2-yl)[1,4]diazepane (0.7 g, 1.8 mmol) and ethanol (5 mL). Add aqueous hydriodic acid (5 mL, 57%). Heat to reflux. After 1 hour, cool to ambient temperature and dilute with diethyl ether (250 mL) and stir to give a solid. Collect the solid by filtration, rinse with diethyl ether, and dry to give the title compound.

reactant | methanol dichloromethane | CO.ClCCl
reactant | 1-t-butoxycarbonyl-4-(1-pentyl-1H-benzimidazol-2-yl)[1,4]diazepane | 1.8 mmol, 0.7 g | C(C)(C)(C)OC(=O)N1CCN(CCC1)C1=NC2=C(N1CCCCC)C=CC=C2 | C22H34N4O2
reactant | ethanol | 5 mL | C(C)O | C2H6O
reactant | hydriodic acid | 5 mL | I | HI
solvent | diethyl ether | 250 mL | C(C)OCC | C4H10O
product | 4-(1-pentyl-1H-benzimidazol-2-yl)[1,4]diazepane hydriodic acid salt | I.C(CCCC)N1C(=NC2=C1C=CC=C2)N2CCNCCC2 | InChI=1S/C17H26N4.HI/c1-2-3-6-13-21-16-9-5-4-8-15(16)19-17(21)20-12-7-10-18-11-14-20;/h4-5,8-9,18H,2-3,6-7,10-14H2,1H3;1H
